US04044141
Analogously to Example 1 heating a solution of 75 mmols of 3'-nitrobenzylideneacetoacetic acid 2-methoxyethyl ester and 75 mmols of β-aminocrotonic acid 3,4,5-trimethoxybenzyl ester in 120 ml of ethanol gave 2,6-dimethyl-3-(2-methoxyethoxy)-carbonyl-4-(3'-nitrophenyl)-1,4-dihydropyridine-5-carboxylic acid 3,4,5-trimethoxybenzyl ester of melting point 160° C (from ethanol).

reactant | 2,6-dimethyl-3-(2-methoxyethoxy)-carbonyl-4-(3'-nitrophenyl)-1,4-dihydropyridine-5-carboxylic acid 3,4,5-trimethoxybenzyl ester | COC=1C=C(COC(=O)C=2C(C(=C(NC2C)C)OCCOC)C2C(C(=CC=C2)[N+](=O)[O-])=C=O)C=C(C1OC)OC | C28H32N2O10
solvent | ethanol | 120 ml | C(C)O | C2H6O
product | β-aminocrotonic acid 3,4,5-trimethoxybenzyl ester | 75 mmols, Yield: 71% | COC=1C=C(COC(\C=C(\C)/N)=O)C=C(C1OC)OC | C14H19NO5
